US06749839B2
a) Preparation of 3-trimethylsilylpropanoyl Chloride
13.5 g (0.11 mol) of thionyl chloride are added dropwise with stirring to a mixture of 10 g (0.068 mol) of 3-trimethylsilylpropanoic acid in 30 ml of 1,2-dichloroethane. The reaction mixture is heated at 40° C. for 2 hours. The excess thionyl chloride is removed by distillation under reduced pressure. The solution obtained is used without further purification for the following step.

reactant | thionyl chloride | 0.11 mol, 13.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-trimethylsilylpropanoic acid | 0.068 mol, 10 g | C[Si](CCC(=O)O)(C)C | C6H14O2Si
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 3-trimethylsilylpropanoyl Chloride | C[Si](CCC(=O)Cl)(C)C | C6H13ClOSi
